US07973078B2
300 mg of N2-(3-chloro-2-methylphenyl)-N-(4-hydroxybenzyl)-N2-[(4-methylphenyl)sulfonyl]glycinamide was dissolved in 2.00 mL of DMF, and 110 mg of potassium carbonate and 133 mg of ethyl bromoacetate were added thereto, followed by stirring at room temperature overnight. To the reaction liquid was added water, followed by extraction with ethyl acetate, and the organic layer was washed with saturated brine, and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=60:40 to 30:70) to obtain 370 mg of ethyl 4-[({N-(3-chloro-2-methylphenyl)-N-[(4-methylphenyl)sulfonyl]glycyl}amino)methyl]phenoxyacetate.

reactant | N2-(3-chloro-2-methylphenyl)-N-(4-hydroxybenzyl)-N2-[(4-methylphenyl)sulfonyl]glycinamide | 300 mg | ClC=1C(=C(C=CC1)N(CC(=O)NCC1=CC=C(C=C1)O)S(=O)(=O)C1=CC=C(C=C1)C)C | C23H23ClN2O4S
reactant | potassium carbonate | 110 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 133 mg | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
solvent | DMF | 2.00 mL | CN(C)C=O | C3H7NO
product | ethyl 4-[({N-(3-chloro-2-methylphenyl)-N-[(4-methylphenyl)sulfonyl]glycyl}amino)methyl]phenoxyacetate | 370 mg | ClC=1C(=C(C=CC1)N(CC(=O)NCC1=CC=C(OCC(=O)OCC)C=C1)S(=O)(=O)C1=CC=C(C=C1)C)C | C27H29ClN2O6S
